US08278482B2
N1-Dodecyl-N1,3-dimethylbutane-1,3-diamine
3-Azido-N-dodecyl-N,3-dimethylbutanamide (7.28 g, 22.4 mmol) was dissolved into anhydrous THF (50 mL) and added dropwise to a suspension of LAH (1.70 g, 2.0 equiv, 44.8 mmol) in anhydrous THF (100 mL) to maintain the reaction at reflux (30 min). After complete addition, the flask was fitted with a condenser and the reaction heated in a 70° C. oil bath for 8 h. The reaction mixture was cooled in an ice bath and water (1.7 mL) was added dropwise over 20 min. Then 15% NaOH solution (1.7 mL) was added dropwise over 10 min. The suspension was stirred for a further 10 min and water (1.7 mL) was added in one portion and the mixture stirred for 30 min to a give fine white suspension. The suspension was filtered through a pad of Celite® and washed with diethyl ether (2×100 mL). The combined filtrate was concentrated with a bath temperature between 10-13° C. to an orange liquid (5.61 g, 88.0%). LRMS (ESI+) for C18H40N2 (284.3); Found: 285 (MH+).

reactant | 3-Azido-N-dodecyl-N,3-dimethylbutanamide | 22.4 mmol, 7.28 g | N(=[N+]=[N-])C(CC(=O)N(C)CCCCCCCCCCCC)(C)C | C18H36N4O
reactant | LAH | 44.8 mmol, 1.70 g, 2.0 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1.7 mL | O | H2O
reactant | NaOH | 1.7 mL | [OH-].[Na+]
reactant | water | 1.7 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N1-Dodecyl-N1,3-dimethylbutane-1,3-diamine | C(CCCCCCCCCCC)N(CCC(C)(N)C)C | C18H40N2
